US07915411B2
A solution of 4-chloro-3-nitro-phenol was reacted with 1-Chloromethyl-3-methoxy-benzene using the conditions described in Example 10C to provide 1-Chloro-4-(3-methoxy-benzyloxy)-2-nitro-benzene which was treated sequentially using the procedures from Examples 10D and 10E to provide the title product.

reactant | 4-chloro-3-nitro-phenol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 1-Chloromethyl-3-methoxy-benzene | ClCC1=CC(=CC=C1)OC | C8H9ClO
product | 1-Chloro-4-(3-methoxy-benzyloxy)-2-nitro-benzene | ClC1=C(C=C(C=C1)OCC1=CC(=CC=C1)OC)[N+](=O)[O-] | C14H12ClNO4
